US09376418B2
Ammonium chloride (39 mg, 0.733 mmol) was added to a stirred solution of 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]oxy}benzoic acid (114 mg, 0.244 mmol), EDC (94 mg, 0.489 mmol), HOBt (99 mg, 0.733 mmol), and diisopropylethyl amine (0.256 mL, 1.47 mmol) in DMF (4 mL). The reaction mixture was stirred at room temperature for 16 hours, diluted with water and extracted with ethyl acetate (3×). The combined organics were washed with saturated sodium bicarbonate and then brine. The organic layer was dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (MeOH/DCM) to afford 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]oxy}benzamide (89 mg, 0.191 mmol) as a white solid. MS ESI calc'd for C24H19F3N5O3 [M+H]+ 466. found 466. 1H NMR (500 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.81 (d, J=5.0 Hz, 1H), 8.39 (d, J=2.0 Hz, 1H), 8.08 (dd, J=8.8, 1.8 Hz, 1H), 7.96 (s, 1H), 7.92 (d, J=8.0 Hz, 2H), 7.89 (s, 1H), 7.53 (s, 1H), 7.34 (s, 1H), 7.26 (d, J=4.5 Hz, 1H), 7.21 (d, J=8.0 Hz, 2H), 7.17 (d, J=8.5 Hz, 1H), 7.15 (s, 1H), 2.34 (s, 3H).

reactant | Ammonium chloride | 0.733 mmol, 39 mg | [Cl-].[NH4+]
reactant | 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]oxy}benzoic acid | 0.244 mmol, 114 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)OC1=CC=C(C(=O)O)C=C1 | C24H17F3N4O3
reactant | EDC | 0.489 mmol, 94 mg
reactant | HOBt | 0.733 mmol, 99 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 1.47 mmol, 0.256 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]oxy}benzamide | 0.191 mmol, 89 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)OC1=CC=C(C(=O)N)C=C1 | C24H18F3N5O2
